Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___ year old college student with asthma, depression, panic
attacks, prior suicide attempts (per chart 2 prior attempts, per 
pt 1 prior attempt in the context of intoxication), ___ police
after patient expressed SI to a friend and they called police,
then brought to ___ for safety evaluation.
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
PER INITIAL PSYCHIATRY ADMISSION NOTE ON ___

Chief Complaint: "I'll get help..."

History of Present Illness:
___ year old college student with asthma, depression, panic 
attacks, 2 prior suicide attempts (did not seek care), ___ 
police after patient expressed SI to a friend and they called 
police, then brought to ___ for safety evaluation. 

On interview, patient was quiet with flat affect, polite but 
distressed about what to do with family's reaction to 
hospitalization.  She was supposed to return home tonight for 
___ weekend when entire family gathered, and mother was 
expecting her.  We talked about the various issues with not 
telling her mother, particularly that her mother may be worried 
enough to call police.  In the end we called ___ mother 
together who was upset by news, with ___ permission this 
MD explained to ___ mother that patient would be safe in 
hospital, S12, and what would likely happen.  ___ mother
very upset and wanted to hang up. Despite this, patient able to 
maintain good behavioral control but did ask for some sleep 
medication.  Will do so when patient comes up.  

Particularly quiet on interview and mostly confirmed Dr. 
___ interview with hopelessness, worthlessness, low 
energy, suicidality, poor sleep.  Concerning is the fact that 
the patient was seeing a counselor but stopped; she is not 
well-connected to any provider.

Rest of HPI as per Dr. ___ ___ Note:
"The patient reports she has been feeling depressed for the past 
___ with intermittent worsening. She reports that in the past 
few months her depression has worsened with a significant 
increase in SI and with the formation of a plan to overdose in 
___. The patient reports that she feels hopeless, 
helpless, worthless, has low energy, and is sleeping ___ hours 
per night.
She states that she had 1 prior suicide attempt via ingestion of 
3 Xanax and slept it off. She reports having one other attempt 
but did not elaborate. She reports having seen a counselor at 
school last semester, for ___ visits, but stopped going. She is 
ambivalent about engaging in care although she is concerned 
about her worsening SI. She is open to psychiatric 
hospitalization.
Endorsed intermittent episodes of having increased energy, 
increase rate of speech, increased spending, and requiring less 
sleep. Denies AVH, paranoia or delusions. Endorses anxiety 
symptoms."

 
Past Medical History:
Asthma
 
Social History:
___
Family History:
Denies knowledge of mental illness
 
Physical Exam:
Vital Signs:

 98.3 107/74  HR 71  RR 17  98% RA 

NEURO/MSK:
 *station and gait: intact
 *tone and strength: grossly intact
 *cranial nerves: grossly intact
 *abnormal movements: none observed

MENTAL STATUS EXAM
  *Appearance: well-kept ___ young woman with hair tied 
back, good grooming/hygiene, in NAD, appears in bright spirits
  *Behavior: reasonable eye contact, smiling often, no pmr/pma,
polite, able to use appropriate humor and appropriate slang ("I
understand, I get you") as a way of establishing rapport with
interviewer
  *Speech: nl rate/tone/prosody/speed
  *Mood and Affect: "more optimistic"; affect congruent and full
  *Thought process: linear, goal-directed
  *Thought Content: no evidence of paranoia, avh, delusions.
Denies SI. Denies HI.
  *Insight/Judgment: fair/fair

 
Pertinent Results:
___: WBC: 5.8
___: RBC: 4.18
___: HGB: 11.5
___: HCT: 36.0
___: Plt Count: 313
___: Na: 139
___: K: 4.0
___: Cl: 107
___: CO2: 22
___: BUN: 10
___: Creat: 0.7
___: Glucose: 84 (If fasting, 70-100 normal, >125
provisional diabetes)

___: Benzodiazepine: NEG (Benzodiazepine immunoassay screen
does not detect some drugs,; including Lorazepam, Clonazepam, 
and
Flunitrazepam)
___: Barbiturate: NEG
___: Opiate: NEG (Opiate assay does not reliably detect
synthetic opioids; such as Methadone, Oxycodone, Fentanyl,
Buprenorphine, Tramadol,; Naloxone, Meperidine. See online Lab
Manual for details)
___: Cocaine: NEG
___: Amphetamine: NEG
___: Methadone: NEG (Methadone assay detects Methadone (not
other Opiates/Opioids); Quetiapine (Seroquel) may cause a false
positive result)

___: Urine pH (Hem): 6.0
___: Urine Glucose (Hem): NEG
___: Urine Protein (Hem): 30
___: Urine Bilirubin (Hem): NEG
___: Urobilinogen: 0.2
___: Urine Ketone (Hem): NEG
___: Urine Blood (Hem): LG
___: Urine Nitrite (Hem): NEG
___: Urine Leuks (Hem): TR
___: Urine pH (Hem): 6.0
___: Urine Glucose (Hem): NEG
___: Urine Protein (Hem): 30
___: Urine Bilirubin (Hem): NEG
___: Urobilinogen: 0.2
___: Urine Ketone (Hem): NEG
___: Urine Blood (Hem): LG
___: Urine Nitrite (Hem): NEG
___: Urine Leuks (Hem): TR

___ ___ negative
 
Brief Hospital Course:
No behavioral or safety concerns. Denies SI. Engaged in her care 
and medication compliant.

Subjectively, during her hospital course, ___ reports that she 
has "been okay." She describes that her family (cousins, mom, 
aunt) have been supportive and have visited her while on the 
unit. She notes some surprise by this as her family "believes in 
praying things away" but is pleased that they have been 
supportive. She describes her mood at this time as "more 
optimistic." 

Regarding recent events, she notes that she was speaking on the 
phone with a friend when she described thoughts about hurting 
herself. The friend contacted the school who contacted the 
police. Per patient, she endorsed that she had mentioned a vague
plan "for something in the summer" and not an immediate or exact 
plan. She is unable to describe a specific plan but states 
"maybe something with pills" but denies having a plan more 
specific, any stockpiles of pills, or a particular plan of pill 
type. She denied SI at this time. She stated that she feels safe 
outside of the hospital.

Per patient, she notes that she had 1 SA attempt ___ years ago 
(she adamantly denies the 2 SA that others have stated is in her 
notes). She describes this as "unintentional," a combination of 
pills and alcohol that she "realized after the fact" was 
dangerous.

She denies having any outpatient psychiatrist or outpatient 
therapist. Endorses that this would be helpful. Lives in ___, 
goes to school at ___. Does not have a drivers license 
but is very comfortable taking the bus/public transportation
everywhere and does this often.

She is aware that she has been started on Fluoxetine. Denies any 
side effects. Endorses self-motivation for being followed by an 
outpatient psychiatrist over time to see how she continues to do 
with this medication. Is particularly concerned about weight 
gain with psychiatric medications but is also aware not to 
self-discontinue medications and rather to coordinate with a 
psychiatrist to help adjust her medication regimen as needed.

Regarding recent stressors, she lists school, noting that she 
was recently put on academic probation. She also describes her 
social circle as okay but that
she often feels alone. She endorses being an only child and 
feeling far away from family and prior close friends while now 
at school. She describes that she can easily make friends but 
has more difficulty growing and maintaining friendships and this 
can feel lonely for her. She describes that she is frequently 
"go go
go" with a busy schedule at school and work (a ___ at a 
___ ___). Denies any relationship issues.

She is forward thinking and when considering her academic issues 
is able to self-describe that she is thinking about taking 
summer courses and other options to help her catch up in school.

No change in ROS or PFSH except: Endorsed insomnia. Describes 
that this is also an issue for her at home. Notes that she tried 
trazodone with increasing dosage at home but no effect. Has 
tried melatonin in the past but no effect. She describes that 
she wakes at 8:45 am every day, has a very busy schedule, tries 
to immediately go to bed at 2 am and is unable to fall asleep. 
She was provided education on sleep hygiene principles.

Inpatient Psychiatric Medications at the time of discharge:
Albuterol Inhaler ___ PUFF IH DAILY:PRN h/o asthma
Acetaminophen 325 mg PO/NG Q6H:PRN Pain - Mild
FLUoxetine 10 mg PO/NG DAILY
TraZODone 50 mg PO/NG QHS:PRN insomnia
TraZODone 50 mg PO/NG ONCE Duration: 1 Dose

Impression and Assessment at time of discharge:
___ year old college student with asthma, depression, panic 
attacks, prior suicide attempts (per chart 2 prior attempts, per 
pt 1 prior attempt in the context of intoxication), BIB police 
after patient expressed SI to a friend and they called police, 
then brought to ___ for safety evaluation.

Differential at this time includes MDD and nonspecific anxiety 
disorder. R/o social phobia, panic disorder, r/o cannabis use 
disorder. In addition, this current presentation may also be 
related to social stressors, including life changes of being 
away at college and developing new friendships in this context, 
in addition to school stressors.

Hospital Plan at Time of Discharge:
1) Legal/Safety:
- CV signed and accepted ___
- Q15 / Green

2) Psychiatric
# Unspecified Mood Disorder
- FLUoxetine 10 mg PO/NG DAILY

3) General Medical Conditions
# Insomnia, chronic issue, baseline at home
- Patient educated on concepts of sleep hygiene, bedtime 
routines
including the use of relaxing activities prior to bed to
transition and prepare for sleep, use of bed for sleep and not
movies/working. Patient endorsed that she will try implementing
these principles

# Hx of Asthma
- Albuterol Inhaler ___ PUFF IH DAILY:PRN h/o asthma

# Additional prns in order set
- Acetaminophen 325 mg PO/NG Q6H:PRN Pain - Mild

4)Social Work/Aftercare Planning
- ___ student at ___ ___ year). Patient was 
provided with letters to excuse her absence during this hospital 
admission. 
- no current outpatient therapist or psychiatrist prior to
admission, pt amenable and motivated to follow up with 
providers,
___ need aftercare planning
- mother is supportive in pt's care

DATE OF DISCHARGE: ___

 
Medications on Admission:
No psychiatric medications prior to admission
 
Discharge Medications:
FLUoxetine 10 mg PO/NG DAILY
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder vs mood disorder unspecified

 
Discharge Condition:
Discharge Condition: good

NEURO/MSK:
 *station and gait: intact
 *tone and strength: grossly intact
 *cranial nerves: grossly intact
 *abnormal movements: none observed

MENTAL STATUS EXAM
  *Appearance: ___ ___ young woman with hair tied 
back, good grooming/hygiene, in NAD, appears in bright spirits
  *Behavior: reasonable eye contact, smiling often, no pmr/pma,
polite, able to use appropriate humor and appropriate slang ('I
understand, I get you') as a way of establishing rapport with
interviewer
  *Speech: nl rate/tone/prosody/speed
  *Mood and Affect: 'more optimistic'; affect congruent and full
  *Thought process: linear, goal-directed
  *Thought Content: no evidence of paranoia, avh, delusions.
Denies SI. Denies HI.
  *Insight/Judgment: fair/fair

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___